US06573293B2
5-(2-Oxo-6-phenyl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic Acid (2-diethylaminoethyl)amide
6-Phenyl-1,3-dihydroindol-2-one (209 mg, 1 mmol) was condensed with 5-formyl-1H-pyrrole-2-carboxylic acid (2-diethylaminoethyl)amide to give 182 mg (42%) of the title compound.

reactant | 6-Phenyl-1,3-dihydroindol-2-one | 1 mmol, 209 mg | C1(=CC=CC=C1)C1=CC=C2CC(NC2=C1)=O | C14H11NO
reactant | 5-formyl-1H-pyrrole-2-carboxylic acid (2-diethylaminoethyl)amide | C(C)N(CCNC(=O)C=1NC(=CC1)C=O)CC | C12H19N3O2
product | 5-(2-Oxo-6-phenyl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic Acid (2-diethylaminoethyl)amide | 182 mg, 42% | C(C)N(CCNC(=O)C=1NC(=CC1)C=C1C(NC2=CC(=CC=C12)C1=CC=CC=C1)=O)CC | C26H28N4O2
